Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],-5.21391593136
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],1.93033992018
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[H:8].[C:9]([H:10])([H:11])[H:12],4.02605360822
[H:1][O:2][C:3]1=[C:4][C:5]([H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3](=[C:4])[C:9]([C:7](=[C:5][H:6])[H:8])([H:10])[H:11],3.87390116238
[C:1]#[C:2][C:3]([H:4])[C:5][O:6][H:7].[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C@:3]([H:4])([C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.93163678832
[H:16].[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.67499357042
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.30190955938
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])=[C:9][H:10].[H:8],1.6470105403600002
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]=[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.952897345249999
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],3.6734676491800022
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],2.77797906738
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]=[C:14]([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:13]=[C:14]([H:15])[H:16],1.7990365472599998
[C:1]#[C:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2].[C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9],7.089622858049999
[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[O:11]1>>[H:10].[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[O:11]1,4.96207958667
[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9](=[O:10])[H:11]>>[C:1]([C:2]([H:6])([H:7])[H:8])[H:4].[C:3](#[C:5])[C:9](=[O:10])[H:11],4.69835478661
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:8](/[O:7][C:6])[H:9]>>[O:1]=[C:2]([H:3])[C@@:4]1([H:5])[C:6][O:7][C:8]1[H:9],0.700391768811
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4][O:5][H:6]>>[H:1][C:2][O:3]/[C:4]([O:5][H:6])=[C:7](/[H:8])[C:9]([H:10])[H:11],-3.9011205734
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]=[C:11]([H:12])[H:13],0.21656659206
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:8][C:9]([H:10])([H:11])[H:12].[H:7],1.8267536834
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11].[O:1],3.39528087613
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],0.923889813836
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.002267815
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1]=[C:2],1.46016158627
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:5],3.99402737554
[C:1]#[C:2][C:3]([O:4][O:5])=[C:6]([H:7])[H:8].[H:9]>>[C:1]#[C:2][C:3]([O:4][O:5])[C:6]([H:7])([H:8])[H:9],-3.93569864008
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2],5.66804549849
[C:1]#[C:2][C@:3]([O:4])([H:5])[C:6]#[C:7][H:8]>>[C:1]#[C:2][C:3]([H:5])[C:6]#[C:7][H:8].[O:4],1.6966663567299998
[H:1][O:2][C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:4](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:5],2.84477377551
[C:3]([H:4])([H:5])=[C:6][H:7].[H:1][C:2]([H:8])=[C:9]=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],1.8139243545
